US05760058
1 ml of methanol was dropwise added, at about 80° C., to a mixture of 1.0 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-(2-methoxycarbonylpyridin-5-yl)carbonylpiperidine, 0.12 g of sodium borohydride and 3.88 g of tert-butanol. (This gave rise to foaming.) In this state, the mixture was refluxed by heating, for 1.5 hours. The reaction mixture was returned to room temperature and mixed with 1 ml of water and 1 ml of acetic acid. The mixture was stirred for 5 minutes and then subjected to distillation to remove the solvent. The residue was mixed with water for dissolution. The solution was made basic with an aqueous sodium hydroxide solution and then extracted with chloroform. The extract was washed with water and a saturated aqueous sodium chloride solution, dried with magnesium sulfate, and subjected to distillation to remove the solvent. The residue was purified by a silica gel column chromatography (eluant: dichloromethane/methanol=45/1 to 25/1). The product was converted to a hydrochloride with 2 equivalents of 5N hydrochloric acid, in ethanol. The hydrochloride was crystallized from ethyl acetate-ethanol and recrystallized from ethanol-water to obtain 0.32 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-(2-hydroxymethylpyridin-5-yl)carbonylpiperidine dihydrochloride as colorless prism-like crystals.

reactant | methanol | 1 ml | CO | CH4O
reactant | 4-[N-methyl-N-(2-phenylethyl)amino]-1-(2-methoxycarbonylpyridin-5-yl)carbonylpiperidine | 1.0 g | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(=O)C=1C=CC(=NC1)C(=O)OC | C22H27N3O3
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid | 5N, 2 equivalents | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
solvent | tert-butanol | 3.88 g | C(C)(C)(C)O | C4H10O
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-(2-hydroxymethylpyridin-5-yl)carbonylpiperidine dihydrochloride | 0.32 g | Cl.Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)C(=O)C=1C=CC(=NC1)CO | InChI=1S/C21H27N3O2.2ClH/c1-23(12-9-17-5-3-2-4-6-17)20-10-13-24(14-11-20)21(26)18-7-8-19(16-25)22-15-18;;/h2-8,15,20,25H,9-14,16H2,1H3;2*1H
